US07326791B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(1,1-dioxoisothiazolidin-2-yl)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
130 mg (0.22 mmol) of N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(3-chloropropylsulfonylamino)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide is dissolved in 5 mL of dimethylformamide and, after the addition of 21 mg (0.45 mmol) of sodium hydride (50% in oil), stirred for 2 hours at ambient temperature. Then it is combined with water and extracted with ethyl acetate. The combined organic extracts are dried over sodium sulfate and concentrated by evaporation. Yield: 90 mg (70%); Rf value: 0.40 (silica gel: dichloromethane/ethanol=9:1); C26H30ClN5O4S (544.077); mass spectrum: (M+H)+=545/547 (chlorine isotope).

reactant | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(3-chloropropylsulfonylamino)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | 0.22 mmol, 130 mg | ClC1=CC2=C(NC(=N2)[C@H](CCNS(=O)(=O)CCCCl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C26H31Cl2N5O4S
reactant | sodium hydride | 0.45 mmol, 21 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-(1,1-dioxoisothiazolidin-2-yl)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | ClC1=CC2=C(NC(=N2)[C@H](CCN2S(CCC2)(=O)=O)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C26H30ClN5O4S
